US07825278B2
1,1-Dimethylethyl 2-chloro-α-[[(4-iodophenyl)amino]methylene]-β-oxo-benzenepropanoate.
A solution of 1,1-dimethylethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate (25.5 mg, 0.082 mmol) in 1 mL of toluene was treated with 4-iodoaniline (17.9 mg, 0.082 mmol) added as a solid in one portion. After stirring overnight, the reaction was concentrated in vacuo and the residue was adsorbed onto silica gel and added to 19.5 cm of flash silica in a 2 cm dia. column. Elution with 5:1 hexanes/EtOAc gave the title compound as a solid.

reactant | 1,1-dimethylethyl 2-chloro-α-[(dimethylamino)methylene]-β-oxo-benzenepropanoate | 0.082 mmol, 25.5 mg | ClC1=C(C=CC=C1)C(C(C(=O)OC(C)(C)C)=CN(C)C)=O | C16H20ClNO3
reactant | 4-iodoaniline | 0.082 mmol, 17.9 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1-Dimethylethyl 2-chloro-α-[[(4-iodophenyl)amino]methylene]-β-oxo-benzenepropanoate | ClC1=C(C=CC=C1)C(C(C(=O)OC(C)(C)C)=CNC1=CC=C(C=C1)I)=O | C20H19ClINO3
